US04423058
8.5 g (0.1 mol) of n-propyl isocyanate were added dropwise to a solution of 12.6 g (0.1 mol) of 1-isopropylhydroxy-pyrazole and 3 drops of triethylamine in 50 ml of acetone. The reaction mixture was then further stirred for 4 hours at 40° C. and the solvent was distilled off in vacuo. 20 g (95% of theory) of 1-isopropyl-pyrazol-4-yl N-n-propylcarbamate were obtained as a brown oil with a refractive index of nD22 =1.4885.

reactant | n-propyl isocyanate | 0.1 mol, 8.5 g | C(CC)N=C=O | C4H7NO
reactant | 1-isopropylhydroxy-pyrazole | 0.1 mol, 12.6 g | C(C)(C)N1N=C(C=C1)O | C6H10N2O
reactant | acetone | 50 ml | CC(=O)C | C3H6O
catalyst | triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
product | 1-isopropyl-pyrazol-4-yl N-n-propylcarbamate | 20 g, 95% | C(CC)NC(OC=1C=NN(C1)C(C)C)=O | C10H17N3O2
